US08580783B2
5-benzo[1,3]dioxol-5-ylmethyl-8-morpholin-4-yl-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine
To 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine (0.05 g, 0.15 mmol), prepared as described in Example 21, morpholine (1 mL) was added and the mixture was heated at 140° C. for 2 h. The reaction was cooled at room temperature, the solid precipitated was filtered and washed with a mixture MeOH/H2O 9:1, to provide the title compound (0.03 g, 50% yield).

reactant | 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | 0.15 mmol, 0.05 g | O1COC2=C1C=CC(=C2)CC2=NC=1C=C(C=CC1C=1N2N=C(N1)N)F | C17H12FN5O2
reactant | morpholine | 1 mL | N1CCOCC1 | C4H9NO
product | 5-benzo[1,3]dioxol-5-ylmethyl-8-morpholin-4-yl-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | 0.03 g, 50% yield | O1COC2=C1C=CC(=C2)CC2=NC=1C=C(C=CC1C=1N2N=C(N1)N)N1CCOCC1 | C21H20N6O3
